US08404684B2
3-(3-Thioureido-pyrazol-1-yl)-propionic acid
This material is prepared by an analogous procedure to (3-thioureido-pyrazol-1-yl)-acetic acid (intermediate DD) by replacing tert-butyl bromoacetate in step 2 with 3-bromo-propionic acid tert-butyl ester.

reactant | (3-thioureido-pyrazol-1-yl)-acetic acid | N(C(=S)N)C1=NN(C=C1)CC(=O)O | C6H8N4O2S
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 3-bromo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCBr)=O | C7H13BrO2
product | 3-(3-Thioureido-pyrazol-1-yl)-propionic acid | N(C(=S)N)C1=NN(C=C1)CCC(=O)O | C7H10N4O2S
